US08791148B2
tert-Butyl 3-tert-butoxycarbonylmethyl-5-iodo-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate (VIIj)
A mixture of 1.90 g (5.27 mmol) of tert-butyl 5-iodo-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate (VIb), 1.13 g (5.80 mmol) of tert-butyl bromoacetate and 2.23 g (6.86 mmol) of cesium carbonate in acetonitrile (60 ml) was heated under reflux for 3 h. The solvent was removed in vacuo, water was added to the residue, and the aqueous mixture was extracted four times with ethyl acetate. The combined organic phases were washed with saturated NaCl solution and dried over magnesium sulfate, and the solvent was removed in vacuo. The residue was purified by chromatography on silica gel (mobile phase gradient 15-40% ethyl acetate in heptane). Yield: 2.26 g (90%) of white solid.

reactant | tert-butyl 5-iodo-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate | 5.27 mmol, 1.90 g | IC1=CC2=C(N(C(N2)=O)C(=O)OC(C)(C)C)C=C1 | C12H13IN2O3
reactant | tert-butyl bromoacetate | 5.80 mmol, 1.13 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | cesium carbonate | 6.86 mmol, 2.23 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | tert-Butyl 3-tert-butoxycarbonylmethyl-5-iodo-2-oxo-2,3-dihydro-benzimidazole-1-carboxylate | C(C)(C)(C)OC(=O)CN1C(N(C2=C1C=C(C=C2)I)C(=O)OC(C)(C)C)=O | C18H23IN2O5
